US07723336B2
In a 2 dram vial was added 1-((8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazin-6-yl)methyl)piperidin-4-one (0.048 g, 0.109 mmol) from (1d), THF (0.362 mL) and benzylamine (0.013 mL, 0.120 mmol). The reaction was allowed to stir at room temperature for 1 hr. Sodium triacetoxyborohydride (0.092 g, 0.435 mmol) was then added and the reaction stirred for 48 hours at ambient temperature. The mixture was diluted with ethyl acetate and 1N NaOH solution and the layers separated. The organics were washed with water and the resulting aqueous solution was back-extracted with ethyl acetate (2×). The combined organics were collected, dried over Na2SO4, filtered and concentrated to provide 6-((4-(benzylamino)piperidin-1-yl)methyl)-N-(4-methoxybenzyl)-N-phenylimidazo[1,2-b]pyridazin-8-amine (0.05 g, 86% yield) which was subsequently used without further purification m/z=(532, M+1).

reactant | 1-((8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazin-6-yl)methyl)piperidin-4-one | 0.109 mmol, 0.048 g | COC1=CC=C(CN(C=2C=3N(N=C(C2)CN2CCC(CC2)=O)C=CN3)C3=CC=CC=C3)C=C1 | C26H27N5O2
reactant | THF | 0.362 mL | C1CCOC1 | C4H8O
reactant | benzylamine | 0.120 mmol, 0.013 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | Sodium triacetoxyborohydride | 0.435 mmol, 0.092 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | NaOH | 1N | [OH-].[Na+]
product | 6-((4-(benzylamino)piperidin-1-yl)methyl)-N-(4-methoxybenzyl)-N-phenylimidazo[1,2-b]pyridazin-8-amine | 0.05 g, 86% yield | C(C1=CC=CC=C1)NC1CCN(CC1)CC=1C=C(C=2N(N1)C=CN2)N(C2=CC=CC=C2)CC2=CC=C(C=C2)OC | C33H36N6O
